US05811433
b. Ethyl 5,6-dichloro-4-hydroxy-2-methyl-nicotinate
102.7 g (0.35 mol) of ethyl 4,5,5-trichloro-3-hydroxy-2-(1-imino-ethyl)penta-2,4-dienoate are heated at 180° C. in 1,2-dichlorobenzene for three hours. The volatile components are removed under a high vacuum up to 100° C. The residue is purified with dichloromethane on silica gel.

reactant | ethyl 4,5,5-trichloro-3-hydroxy-2-(1-imino-ethyl)penta-2,4-dienoate | 0.35 mol, 102.7 g | ClC(C(=C(C(=O)OCC)C(C)=N)O)=C(Cl)Cl | C9H10Cl3NO3
solvent | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 5,6-dichloro-4-hydroxy-2-methyl-nicotinate | ClC=1C(=NC(=C(C(=O)OCC)C1O)C)Cl | C9H9Cl2NO3
